### PR TITLE
Add lemmas about the interpreter and dominance

### PR DESCRIPTION
**Pull request by math-fehr**
Since we do not have a dominance theory yet, we add a list of axioms for now.

### CODE REVIEW

File: Veir/Dominance.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+    op₁.dominates op₂ ctx ∨ op₁ = op₂
+
+axiom OperationPtr.dominatesIp_before : op₁.dominatesIp (.before op₂) ctx ↔ op₁.dominates op₂ ctx
+
+axiom dominates_next :
+  op₁.dominates op₂ ctx →
+  (op₂.get! ctx.raw).next = some nextOp →
+  op₁.dominates nextOp ctx
+
+axiom IRContext.Dom.value_not_in_results_of_in_dominated_op_operands :
```
Comment (tobiasgrosser) [inline Veir/Dominance.lean]: Is there a reason you make the arguments here (also in others) not explicitly named arguments?

@luisacicolini, could you look at the naming convention here?

**Review by tobiasgrosser — APPROVED** [review]
Nice. Thank you!

File: Veir/Dominance.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+axiom OperationPtr.dominatesIp_iff :
+    op₁.dominatesIp (InsertPoint.after op₂ ctx.raw block op₂HasParent op₂InBounds) ctx ↔
+    op₁.dominates op₂ ctx ∨ op₁ = op₂
+
+axiom OperationPtr.dominatesIp_before : op₁.dominatesIp (.before op₂) ctx ↔ op₁.dominates op₂ ctx
+
+axiom dominates_next :
+  op₁.dominates op₂ ctx →
+  (op₂.get! ctx.raw).next = some nextOp →
+  op₁.dominates nextOp ctx
```
Comment (tobiasgrosser) [inline Veir/Dominance.lean]: Why does this not have any namespace/prefix associated?

File: Veir/Dominance.lean (hunk 1 above)
Comment (luisacicolini) [reply Veir/Dominance.lean]: `value_not_in_results_of_values_in_operands_of_dominates_of_dom` maybe? The idea is to have an `of` for each hypothesis you require. It's a bit hard to guess though, I dont think in Lean there are such long names, but we clearly need it.

Comment (math-fehr) [reply Veir/Dominance.lean]: I changed it to `IRContext.Dom.value_not_in_results_of_values_in_operands_of_dominates`. `dom` is the namespace here, so we shouldn't add `of_dom`. Is that good to you?

Also, why should the arguments be explicitely named here? In lemmas we usually keep most arguments implicit, so then we don't have to pass all arguments (since a lot of them can be deduced).

File: Veir/Dominance.lean (hunk 2 above)
Comment (math-fehr) [reply Veir/Dominance.lean]: Fixed!

File: Veir/Dominance.lean (hunk 1 above)
Comment (luisacicolini) [reply Veir/Dominance.lean]: my reasoning is as follows: 
* 1 `of` for `ctx.Dom`
* 1 `of` for `op₁.dominates op₂ ctx`
* 1 `of` for `∀ (value : ValuePtr), value ∈ op₁.getOperands! ctx.raw`

that's the reason for the last `Dom`... alternatively, we could have `Dom.value_not_in_results_of_forall_in_operands_of_dominates`? maybe that is both more coincise and closer to lean. To be fair, I don't have a strong opinion. This really looks like a complex name regardless, so we should have a meaningful comment and just live with it (btw. could you add a comment?)

File: Veir/Dominance.lean (hunk 2 above)
Comment (ineol) [reply Veir/Dominance.lean]: Maybe choose more consistent/self-documenting names for ops?

File: Veir/Dominance.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+
+axiom OperationPtr.dominatesIp_before : op₁.dominatesIp (.before op₂) ctx ↔ op₁.dominates op₂ ctx
+
+axiom OperationPtr.dominates_next :
+  op₁.dominates op₂ ctx →
+  (op₂.get! ctx.raw).next = some nextOp →
+  op₁.dominates nextOp ctx
+
+axiom IRContext.Dom.value_not_in_results_of_values_in_operands_of_dominates :
+    ctx.Dom →
```
Comment (tobiasgrosser) [inline Veir/Dominance.lean]: Is there a reason you pass 'ctx:Dom` via an implication instead of nambed argument?

Comment (math-fehr) [reply Veir/Dominance.lean]: Just changed it!

File: Veir/Dominance.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/Dominance.lean]: Went with your version!

**Comment by math-fehr** [comment]
I added a lot of documentation on `Dominance.lean`, let me know if this looks good!

File: Veir/Interpreter/Lemmas.lean [hunk 4]
```diff
@@ -80,3 +82,42 @@ theorem InterpreterState.setResultValues_comm {ctx : WfIRContext OpInfo}
...
+  case blockArgument blockArg => grind
+  case opResult opRes =>
+    simp only [ite_eq_right_iff, and_imp]
+    simp only [OperationPtr.getResults!.mem_iff_exists_index, ValuePtr.opResult.injEq, not_exists,
+      not_and] at this
+    grind [OperationPtr.getResult_def, cases OpResultPtr]
+
+@[grind =>]
+theorem InterpreterState.getOperandValues_setResultValues_of_dominates {ctx : WfIRContext OpInfo}
+    (ctxDom : ctx.Dom) (hdom : op'.dominates op ctx)  :
```
Comment (tobiasgrosser) [inline Veir/Interpreter/Lemmas.lean]:
```suggestion
    (ctxDom : ctx.Dom) (hdom : op'.dominates op ctx) :
```

**Review by tobiasgrosser — APPROVED** [review]

**Review by ineol — APPROVED** [review]

**Review by luisacicolini — APPROVED** [review]

File: Veir/Dominance.lean [hunk 5]
```diff
@@ -0,0 +1,109 @@
...
+  The dominance relation between operations.
+  An operation `op` dominates itself.
+-/
+axiom OperationPtr.dominates (op₁ op₂ : OperationPtr) (ctx : WfIRContext OpInfo) : Prop
+
+/--
+  The strict dominance relation between operations.
+  An operation `op` does not strictly dominate itself.
+-/
+axiom OperationPtr.strictlyDominates (op₁ op₂ : OperationPtr) (ctx : WfIRContext OpInfo) : Prop
```
Comment (ineol) [inline Veir/Dominance.lean]: Can't you define it as `dominates` and `op1 \neq op2`?

Comment (ineol) [reply Veir/Dominance.lean]: This would make the following few axioms trivial lemmas

File: Veir/Interpreter/Lemmas.lean [hunk 6]
```diff
@@ -80,3 +82,42 @@ theorem InterpreterState.setResultValues_comm {ctx : WfIRContext OpInfo}
     (state.setResultValues ctx.raw op₂ resValues₂).setResultValues ctx.raw op₁ resValues₁ := by
   ext val runtimeVal
   cases val <;> grind
+
+theorem InterpreterState.getVar?_setResultValues_of_dominates {ctx : WfIRContext OpInfo}
```
Comment (ineol) [inline Veir/Interpreter/Lemmas.lean]: I'd add the word "operand" in the lemma name since that's what makes the lemma true

**Review by ineol — APPROVED** [review]

File: Veir/Interpreter/Lemmas.lean (hunk 6 above)
Comment (math-fehr) [reply Veir/Interpreter/Lemmas.lean]: Is this `InterpreterState.getVar?_setResultValues_operand_of_dominates` better?
